US06844349B2
E-N-(3-{4-[3-Chloro-4-(6-methyl-pyridin-3-yloxy)-phenylamino]-quinazolin-6-yl}-allyl)-acetamide.
A mixture of 14.4 μL (0.25 mmol) of acetic acid and 40.3 mg (0.33 mmol) of dicyclohexylcarbodiimide in 2 mL of methylene chloride were stirred for 10 minutes and treated with 100.3 mg of E-[6-(3-amino-propenyl)-quinazolin-4-yl]-[3-chloro-4-(6-methyl-pyridin-3-yloxy)-phenyl]-amine. The reaction was allowed to stir at room temperature overnight. The precipitate which formed was filtered and chromatographed on silica gel, eluting with 6-10% methanol/chloroform to afford 106 mg of the title compound; mp 254-256° C.; 1H NMR (d6 DMSO): δ 9.88 (s, 1), 8.58 (s, 1), 8.48 (m, 1), 8.20 (m, 3), 7.95 (m, 1), 7.83 (m, 1), 7.71 (d, J=8.7 Hz, 1), 7.24 (m, 2), 7.19 (d, J=8.7 Hz, 1), 6.61 (d, J=16.2 Hz, 1), 6.48 (m, 1), 3.90 (m, 2).

reactant | acetic acid | 0.25 mmol, 14.4 μL | C(C)(=O)O | C2H4O2
reactant | dicyclohexylcarbodiimide | 0.33 mmol, 40.3 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | E-[6-(3-amino-propenyl)-quinazolin-4-yl]-[3-chloro-4-(6-methyl-pyridin-3-yloxy)-phenyl]-amine | 100.3 mg | NC/C=C/C=1C=C2C(=NC=NC2=CC1)NC1=CC(=C(C=C1)OC=1C=NC(=CC1)C)Cl | C23H20ClN5O
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | E-N-(3-{4-[3-Chloro-4-(6-methyl-pyridin-3-yloxy)-phenylamino]-quinazolin-6-yl}-allyl)-acetamide | 106 mg | ClC=1C=C(C=CC1OC=1C=NC(=CC1)C)NC1=NC=NC2=CC=C(C=C12)/C=C/CNC(C)=O | C25H22ClN5O2
